US06046232
Synthesis of α-(4-Pentyloxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 2 using 4-hydroxybenzaldehyde, 1-iodopentane and 2-methyl-2-nitropropane. The title compound was isolated in 75% overall yield as a solid, m.p. 43.2° C.

reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-iodopentane | ICCCCC | C5H11I
reactant | 2-methyl-2-nitropropane | CC(C)(C)[N+](=O)[O-] | C4H9NO2
product | α-(4-Pentyloxyphenyl)-N-tert-butylnitrone | C(CCCC)OC1=CC=C(C=C1)C=[N+]([O-])C(C)(C)C | C16H25NO2
